* Frozen netlist snapshot for record 20260818-060158-673fcf0
* source     : sim/level-shifter-oxide-safety/testbench/level_shifter_tb.spice
* sha256     : cbe8205a284c42b8eee7b8282c4362097b022f8bd0535973e1b2852e0829d2f5
* This is a verbatim copy taken at record time. Do not edit.
* level-shifter-oxide-safety -- testbench stimulus fragment.
*
* DUT (harness "dut", see tb.json): design/netlist/level_shifter.spice --
* the cascode/clamped level shifter cell (spec/gate-driver.md sec4), a FLAT
* netlist fragment (no .subckt wrapper -- see that file's header), so every
* internal node (inb, na, nb, nca, ncb, nbuf1) is directly probeable here,
* not just the six external pins.
*
* Ties GND_LOGIC and GND_DRV to the same node (decision record 0001,
* Decision 1: "both pins are the same electrical reference node by design
* intent... tied together with minimal impedance close to the device (star
* point)") -- modeled here as a milliohm-scale tie, not a literal short, so
* the two pins remain electrically distinguishable in the netlist the way a
* real board-level star point would be.
*
* IN is driven by an ideal pulse source referenced to GND_LOGIC, swinging
* the full vlogic_val rail (0 -> vlogic_val), exercising both edges twice
* inside the 200 ns transient window.
*
* Output load: this cell's OUT feeds design/output_stage.sch's pre-driver
* first-stage gate (issue #6, landed 2026-08-12 via PR #23). This record
* replaces the original 20 fF placeholder with the REAL predriver input
* capacitance, computed from the actual first-stage device geometry:
* design/output-stage-sizing.md Sec.1.4/Sec.3 gives the unit inverter's own
* gate cap (XMP1 W=4.4u, XMN1 W=2.0u, design/netlist/output_stage.spice) as
*   C_in = 0.9585 fF/um * 2.0um (Cgg_n) + 0.9227 fF/um * 4.4um (Cgg_p)
*        = 5.977 fF
* (BSIM4 cgg probe against the installed sm141064.ngspice model, typical
* corner/27C/5V bias -- see that document for the full derivation). This
* supersedes sim/level-shifter-oxide-safety/records/20260808-052057-5fbdb2d.md,
* whose 20 fF load was noted as "not a measured #6 number; revisit once #6
* lands" -- #6 has since landed and this is that revisit (issue #100).

vsup_logic vdd_logic  0         dc {vlogic_val}
vsup_drv   vdd_drv    0         dc {vdrv_val}
vgnd_logic gnd_logic  0         dc 0
rgndtie    gnd_logic  gnd_drv   1m

vin  in  gnd_logic pulse(0 {vlogic_val} 20n 0.5n 0.5n 40n 80n)

cload out gnd_drv 5.977f

* ---------------------------------------------------------------
* DUT netlist included by this testbench (schematic)
* source     : design/netlist/level_shifter.spice
* sha256     : bbb83347cd68bdfd05f8457a27b5ee9fb5dd23b498a907d042c2acdaf53917b4
* ---------------------------------------------------------------

* level_shifter.spice -- xschem-generated netlist fragment
* Source: design/level_shifter.sch (xschem -x -n -s, gf180mcuD)
* Cascode/clamped 3.3V-logic -> 5V/6V-drive-rail level shifter (spec/gate-driver.md sec4).
* External nodes (spec/decision-records/0001, Decision 1 port list):
*   in         -- IN  (3.3V logic input, thin-oxide domain)
*   vdd_logic  -- VDD_LOGIC (3.3V logic supply)
*   gnd_logic  -- GND_LOGIC (3.3V logic return)
*   vdd_drv    -- VDD_DRV (5V/6V drive-rail supply)
*   gnd_drv    -- GND_DRV (drive-rail return)
*   out        -- OUT (drive-rail-referenced logic output, non-inverting)
* GND_LOGIC and GND_DRV are two pins but one electrical reference node by
* design intent (decision record 0001, Decision 1) -- tie them together in
* any testbench that instantiates this fragment.
* This is a netlist FRAGMENT: devices only, no .include/.lib/.temp/.control/.end
* (design/README.md) -- a testbench supplies models, corners, temp and sources.
* See design/level-shifter-partition.md for the device-by-device domain/DNWELL
* partition table and the cascode-bias derivation.
*
* XCCOMP1..XCCOMP4 (issues #155/#192, spec/decision-records/0007 + 0014):
* ~12-15 fF MIM feedforward compensation capacitor from `ncb` to `out` (the
* block-level IN_DRV net), mitigating the gate-drive-feedthrough overshoot
* spec/decision-records/0006 characterizes. Realized as FOUR SERIES
* cap_mim_2f0_m4m5_noshield devices, each at the DRM minimum 5.0um x 5.0um,
* measured 12.27/13.63/14.99 fF end-to-end at ff/tt/ss (mimcap_ff/typical/ss
* corner sections, this repo's PVT harness already sweeps this device
* family). Sized at the small end of decision record 0006's characterized
* effective range (10-100 fF), not the middle -- see 0007 for why.
*
* Why four in series rather than one device (decision record 0014, issue
* #192). gf180mcuD fixes the MIM density at 2.0 fF/um2 -- `.config/nodeinfo.json`
* option "MIM_2P0"; the PDK's own libs.tech/klayout/lvs/run_lvs.py binds
* variant=D to mim_cap=2; libs.tech/magic/gf180mcuD.tech and
* libs.tech/netgen/gf180mcuD_setup.tcl each define exactly ONE MIM device,
* cap_mim_2f0_m4m5_noshield -- so decision record 0007's
* cap_mim_1f0_m4m5_noshield is a simulation-only model with no fabricable or
* LVS-recognizable device on this PDK build. And DRM rule MIMTM.8a sets a
* 25um2 minimum MIM area (FuseTop), so the SMALLEST single MIM this process
* can build is 5.0um x 5.0um = 54.52 fF (tt) -- four times larger than this
* node can tolerate (decision record 0007's own sizing sweep). Four
* minimum-area devices in series is the least-area MIM realization that
* holds both ratified bounds; the split also puts only ~1.4 V across each
* device against the DRM's 6 V MiM rating.

**.subckt level_shifter in vdd_logic gnd_logic vdd_drv gnd_drv out

*.ipin in
*.ipin vdd_logic
*.ipin gnd_logic
*.ipin vdd_drv
*.ipin gnd_drv
*.opin out
XMNINV inb in gnd_logic gnd_logic nfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPINV inb in vdd_logic vdd_logic pfet_03v3 L=0.28u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNPDA na in gnd_logic gnd_logic nfet_03v3 L=0.28u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNPDB nb inb gnd_logic gnd_logic nfet_03v3 L=0.28u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNCASA nca vdd_logic na gnd_drv nfet_06v0 L=0.7u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNCASB ncb vdd_logic nb gnd_drv nfet_06v0 L=0.7u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPLATA nca ncb vdd_drv vdd_drv pfet_06v0 L=0.55u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPLATB ncb nca vdd_drv vdd_drv pfet_06v0 L=0.55u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPBUF1 nbuf1 ncb vdd_drv vdd_drv pfet_06v0 L=0.55u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNBUF1 nbuf1 ncb gnd_drv gnd_drv nfet_06v0 L=0.7u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPBUF2 out nbuf1 vdd_drv vdd_drv pfet_06v0 L=0.55u W=15u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNBUF2 out nbuf1 gnd_drv gnd_drv nfet_06v0 L=0.7u W=15u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCCOMP1 ncb nccomp1 cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=5.0u m=1
XCCOMP2 nccomp1 nccomp2 cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=5.0u m=1
XCCOMP3 nccomp2 nccomp3 cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=5.0u m=1
XCCOMP4 nccomp3 out cap_mim_2f0_m4m5_noshield c_width=5.0u c_length=5.0u m=1
**.ends
